US05869682
Step I: N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-3(S)-ethyl-proline-N-methyl-N-(3-chlorophenylmethyl) amide
N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-3(S)-ethyl-proline-N-(3-chlorophenylmethyl) amide (0.175 g, 0.39 mmol) was dissolved in dry DMF (4 mL) with stirring at 0° C. under Ar, treated with NaH (60% dispersion in mineral oil, 0.023 g, 0.58 mmol), and after 15 minutes treated with iodomethane (0.029 mL, 0.47 mmol). The reaction mixture was stirred at 25° C. for 2 h, then evaporated to dryness and partitioned between EtOAc and aqueous saturated NaHCO3 solution. The organic layer was separated, washed with brine, dried (MgSO4), filtered, and concentrated to dryness to give the title compound.

reactant | N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-3(S)-ethyl-proline-N-(3-chlorophenylmethyl) amide | 0.39 mmol, 0.175 g | ClC=1C=C(C=CC1)CNC([C@H]1N(CC[C@@H]1CC)C([C@H]1NCCC1)C(=O)OC(C)(C)C)=O | C24H36ClN3O3
reactant | NaH | 0.58 mmol, 0.023 g | [H-].[Na+]
reactant | iodomethane | 0.47 mmol, 0.029 mL | IC | CH3I
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-[(t-Butyloxycarbonyl)-pyrrolidin-2(S)-ylmethyl]-3(S)-ethyl-proline-N-methyl-N-(3-chlorophenylmethyl) amide | CN(C([C@H]1N(CC[C@@H]1CC)C([C@H]1NCCC1)C(=O)OC(C)(C)C)=O)CC1=CC(=CC=C1)Cl | C25H38ClN3O3
